US04107307
2-Isobutyl-5-isopropyl-4-imidazolecarboxaldehyde
The procedure of Example 30 is repeated substituting an equimolecular amount of 2-isobutyl-5-isopropyl-4-imidazolemethanol for the 2-tert-butyl-5-methyl-4-imidazolemethanol employed in that example. There is thus obtained the title compound in equally good yield.

reactant | 2-isobutyl-5-isopropyl-4-imidazolemethanol | C(C(C)C)C=1NC(=C(N1)CO)C(C)C | C11H20N2O
reactant | 2-tert-butyl-5-methyl-4-imidazolemethanol | C(C)(C)(C)C=1NC(=C(N1)CO)C | C9H16N2O
product | 2-Isobutyl-5-isopropyl-4-imidazolecarboxaldehyde | C(C(C)C)C=1NC(=C(N1)C=O)C(C)C | C11H18N2O
